US08609690B2
(2,3-Dihydro-benzo[1,4]dioxin-6-yl)-(3-phenyl-8-aza-bicyclo[3.2.1]oct-2-en-8-yl)-methanone
2 M aqueous Na2CO3 solution (1.0 mL) is added to a flask charged with a stir bar, trifluoro-methanesulfonic acid 8-(2,3-dihydro-benzo[1,4]dioxine-6-carbonyl)-8-aza-bicyclo[3.2.1]oct-2-en-3-yl ester (0.40 g), phenylboronic acid (0.13 g), lithium chloride (87 mg), Pd(PPh3)4 (60 mg), water (2 mL), and 1,2-dimethoxyethane (10 mL) in argon atmosphere. The resulting mixture is stirred at reflux temperature for 4 h. After cooling to ambient temperature, brine is added and the mixture is extracted with ethyl acetate. The combined extracts are dried (Na2SO4) and the solvent is removed under reduced pressure. The residue is purified by chromatography on silica gel (cyclohexane/ethyl acetate 1:0→2:1).

reactant | Na2CO3 | 2 M, 1.0 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | trifluoro-methanesulfonic acid 8-(2,3-dihydro-benzo[1,4]dioxine-6-carbonyl)-8-aza-bicyclo[3.2.1]oct-2-en-3-yl ester | 0.40 g | O1CCOC2=C1C=CC(=C2)C(=O)N2C1C=C(CC2CC1)OS(=O)(=O)C(F)(F)F | C17H16F3NO6S
reactant | phenylboronic acid | 0.13 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | lithium chloride | 87 mg | [Cl-].[Li+]
solvent | brine | [Cl-].[Na+].O
catalyst | Pd(PPh3)4 | 60 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | 1,2-dimethoxyethane | 10 mL | COCCOC | C4H10O2
solvent | water | 2 mL | O | H2O
product | (2,3-Dihydro-benzo[1,4]dioxin-6-yl)-(3-phenyl-8-aza-bicyclo[3.2.1]oct-2-en-8-yl)-methanone | O1CCOC2=C1C=CC(=C2)C(=O)N2C1C=C(CC2CC1)C1=CC=CC=C1 | C22H21NO3
